US07091353B2
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.29 g, 1.90 mmol) was added to a stirred suspension of 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.6 g, 1.85 mmol) in CH3CN (50 mL). After stirring for 20 min, propyl isocyanate (0.24 g, 2.77 mmol) was added. The mixture was stirred at room temperature for 17 hours. The solvent was removed and the residue was dissolved in CH2Cl2 (70 mL). The CH2Cl2 solution was washed with 1N HCl (30 mL), H2O (30 mL), brine (30 mL) and dried (MgSO4). The solvent was removed in vacuo and the residue was purified by chromatography (SiO2, CH2Cl2:CH3OH 100:3) to give N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}(propylamino)carboxamide (0.13 g, 20%) as a white solid: mp160–162° C.; 1H NMR (DMSO-d6) δ 11.14 (s, 1H), 7.86–7.69 (m, 3H), 6.44 (t, J=5.9 Hz, 1H), 6.16 (t, J=1H), 5.18–5.11 (dd, J=5.3 and 12.4 Hz, 1H), 4.63 (d, J=5.9 Hz, 2H), 2.99–2.83 (m, 3H), 2.64–2.50 (m, 2H), 2.08–2.04 (m, 1H), 1.42–1.32 (m, 2H), 0.83 (t, J=7.3 Hz, 3H); 13C NMR (DMSO-d6) δ 172.78, 169.84, 167.59, 167.05, 158.03, 141.16, 134.62, 133.34, 131.51, 126.96, 121.63, 48.82, 41.18, 30.94, 23.15, 21.99, 11.33; Anal. Calcd. For C18H20N4O5: C, 58.06; H, 5.41; N, 15.05. Found: C, 57.94; H, 5.31; N, 14.90.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 1.90 mmol, 0.29 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 1.85 mmol, 0.6 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | propyl isocyanate | 2.77 mmol, 0.24 g | C(CC)N=C=O | C4H7NO
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}(propylamino)carboxamide | 0.13 g, 20% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)CNC(=O)NCCC)=O)=O | C18H20N4O5
